Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Codeine / Valium / Penicillins / Omeprazole Sodium / Lisinopril 
/ mango / papaya / morphine
 
Attending: ___
 
Chief Complaint:
Abdominal distension
 
Major Surgical or Invasive Procedure:
Ultrasound-guided therapeutic paracentesis (___) - 2L removed
PARACENTESIS DIAG/THERAP W IMAGING GUID (___) - 0.425L removed
 
History of Present Illness:
___ woman with past medical history of hep
C/alcoholic cirrhosis (complicated by ascites, esophageal &
rectal varices, hepatic encephalopathy), polysubstance use
disorder, hyperlipidemia, COPD, peripheral vascular disease, 
GERD
status post lap fundoplication and hiatal hernia repair,
insulin-dependent diabetes, recent admission for subacute rib
fractures, diffuse abdominal pain, now sent in with worsening
abdominal distension and need for therapeutic paracentesis. 

She reports that she typically gets paracentesis weekly, last
documented in chart on ___. She was not sure when to return for
one. She has had progressive swelling of her abdomen and
worsening of her chronic abdominal pain, which can be sharp or
cramping and all over her abdomen. She is quite uncomfortable. 
In
addition to her abdominal pain, she has has chest pain under her
left breast x weeks that is non-exertional and non-radiating. 
She
has no dyspnea.

In terms of her recent admission, it was for Acute on Chronic
Abdominal Pain and decompensated alcoholic cirrhosis. Her course
was complicated by new diagnosis of adrenal insufficiency,
odynophagia, by he was recommended to go to rehabilitation but
declined. 

Initial ED Vitals: 10 | 96.6 | 72 | 129/67 | 28 | 100% RA 

Exam:
VS: T 97.4 BP 123 / 65  HR 59 RR 20 SpO2 97% RA 
GEN: Chronically ill appearing, grossly cachectic. Appears
uncomfortable but nontoxic. 
HEENT: NGT in right nare. Moist mucous membranes. 
Skin: +purple-red ecchymoses on bilateral feet and at base of 
her
distended abdomen.
Chest: Faint bibasilar crackles, otherwise good air movement
throughout
CV: RRR without murmurs
Abdomen: Distended, tense, diffusely tender to evne light
palpation.  +5cm, and 2cm reducible hernias (umbilical,
supraumbilical). +many dilated veins across abdomen.
Extremities: No peripheral edema
Neuro: AOx3, +correct DOWB, +tremor with outstretched hands, no
gross asterixis though her grip is gives way on hand-squeeze,
suggestive of some asterixis. 

Labs reviewed, stable from last discharge:
WBC 4.5 | Hgb 8.7 (from 7.1) | plt 56
INR 1.4
K 4.5 | Na 139 | Cl 106 | Bicarb 22 | BUN 28 | Cr 0.9
AST 43 | ALT 27 | AP 146 | Tbili 1.0 (from 0.7)
Lipase 58
Albumin 3.6

Diagnostic paracentesis with 51 WBC (5 poly, 14 lymph); 1068 
RBC.
4 mesothelial, 61 macrophages, 3 other. 0.7 Protein, 173 
glucose.

Imaging showed: 
___ RUQUS:
1. Cirrhotic liver with splenomegaly and moderate volume ascites
likely secondary to portal venous hypertension.
2. No evidence of portal vein thrombosis.
3. Patient is status post cholecystectomy with stable, dilated
CHD likely due to postoperative changes.

She was given:
 -Morphine 4mg
 -Levofloxacin 
 -Albuterol & Ipratropium nebs
 -Morphine 4mg
 -Pregabalin 150mg 
 -Pantoprazole 40mg 
 -Rifaximin 550mg 
 -Tizanidine 4mg

ROS: No headache, lightheadedness, fevers, chills, dyspnea,
dysuria, rash. 
 
Past Medical History:
HCV - genotype 1a decompensated with h/o ascites; liver biopsy 
in ___ showed stage ___ fibrosis 
EtOH cirrhosis (Child's Class B) c/b ascites, esophageal 
varices, HE
Hypertension
Hyperlipidemia
COPD
Alcohol use disorder
Depression
Cocaine use disorder
Tobacco use disorder
Cervical spondylosis
L subclavian stenosis
Peripheral vascular disease
GERD s/p lap fundoplication and hiatal hernia repair ___
s/p cholecystectomy
s/p R inguinal hernia repair  
 
Social History:
___
Family History:
Mother: DM, CAD (COD), and was in a wheelchair for neuropathy.
Father: ___, rectal CA (COD)
Sister: mental illness 
___: 1 brother neonatal death, 1 brother death at 3 months, 

1 brother sudden death in ___.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VS: T 97.4 BP 123 / 65  HR 59 RR 20 SpO2 97% RA 
GEN: Chronically ill appearing, grossly cachectic. Appears
uncomfortable but nontoxic. 
HEENT: NGT in right nare. Moist mucous membranes. 
Skin: +purple-red ecchymoses on bilateral feet and at base of 
her
distended abdomen.
Chest: Faint bibasilar crackles, otherwise good air movement
throughout
CV: RRR without murmurs
Abdomen: Distended, tense, diffusely tender to evne light
palpation.  +5cm, and 2cm reducible hernias (umbilical,
supraumbilical). +many dilated veins across abdomen.
Extremities: No peripheral edema
Neuro: AOx3, +correct DOWB, +tremor with outstretched hands, no
gross asterixis though her grip is gives way on hand-squeeze,
suggestive of some asterixis. 

DISCHARGE PHYSICAL EXAM:
========================
GEN: Chronically ill appearing, grossly cachectic. Appears 
uncomfortable but nontoxic. 
HEENT: NGT bridled in right nare. Moist mucous membranes. 
Skin: +purple-red ecchymoses on bilateral feet and at base of 
her
distended abdomen.
Resp: Faint bibasilar crackles, diffuse rhonchi. 
Chest: Tenderness to palpation anteriorly
CV: RRR without murmurs, rub or gallop
Abdomen: Distended, tense, diffusely tender to even light 
palpation. +5cm, and 2cm reducible hernias (umbilical, 
supraumbilical). +many dilated veins across abdomen. 
Extremities: No peripheral edema
Neuro: AOx3, +correct DOWB, +tremor with outstretched hands, no 
gross asterixis though her grip is gives way on hand-squeeze
 
Pertinent Results:
ADMISSION LABS:
================
___ 04:32PM BLOOD WBC-4.5 RBC-3.13* Hgb-8.7* Hct-28.9* 
MCV-92 MCH-27.8 MCHC-30.1* RDW-18.4* RDWSD-62.4* Plt Ct-56*
___ 04:32PM BLOOD ___ PTT-31.4 ___
___ 04:32PM BLOOD Glucose-172* UreaN-28* Creat-0.9 Na-139 
K-4.5 Cl-106 HCO3-22 AnGap-11
___ 04:32PM BLOOD ALT-27 AST-43* AlkPhos-146* TotBili-1.0
___ 04:32PM BLOOD Albumin-3.6 Calcium-8.5 Phos-2.9 Mg-2.3
___ 04:45PM ASCITES TNC-51* RBC-1068* Polys-15* Lymphs-14* 
Monos-0 Plasma-1* Mesothe-5* Macroph-65* Other-0

MICROBIOLOGY:
=============
___ 4:00 am URINE      Source: Catheter. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 
__________________________________________________________
___ 8:24 am BLOOD CULTURE      2 OF 2. 

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 

IMAGING:
========
CXR (___)
Low lung volumes. Exclusion of the left costophrenic angle. 
Streaky bibasilar atelectasis. 

LIVER OR GALLBLADDER US (SINGLE ORGAN) (___)
1. Cirrhotic liver with splenomegaly and moderate volume ascites 
likely 
secondary to portal venous hypertension. 
2. No evidence of portal vein thrombosis. 
3. Patient is status post cholecystectomy with stable, dilated 
CHD. 

CHEST (PA & LAT) (___):
Lungs are low volume with mild prominence of the interstitium.  
An emphysematous bleb in the left perihilar region is again 
seen.  Cardiomediastinal silhouette is stable.  There is no 
pleural effusion.  No pneumothorax is seen

DISCHARGE LABS:
===============
___ 05:41AM BLOOD WBC-7.2 RBC-2.56* Hgb-6.7* Hct-23.0* 
MCV-90 MCH-26.2 MCHC-29.1* RDW-18.3* RDWSD-60.1* Plt Ct-50*
___ 05:41AM BLOOD ___ PTT-33.1 ___
___ 05:41AM BLOOD Glucose-135* UreaN-28* Creat-0.8 Na-142 
K-4.8 Cl-107 HCO3-24 AnGap-11
___ 05:41AM BLOOD ALT-22 AST-33 LD(LDH)-233 AlkPhos-133* 
TotBili-0.___ woman with past medical history of hep C/alcoholic 
cirrhosis (c/b ascites, esophageal & rectal varices, hepatic 
encephalopathy) polysubstance use disorder, hyperlipidemia, 
COPD, peripheral vascular disease, GERD status post lap 
fundoplication and hiatal hernia repair, recent admission for 
subacute rib fractures, diffuse abdominal pain, hospital course 
c/b odynophagia and malnutrition s/p NGT placement, anemia, and 
concern for adrenal insufficiency, now sent in with worsening 
abdominal distension for therapeutic paracentesis.

Active Management:
==================
#Severe Ascites
#HCV/EtOH Cirrhosis: 
Child's Class B, MELD 11 on admission. Previously decompensated 
by ascites (did not tolerate diuretics), esophageal varices, and 
HE. No history of SBP. Not a transplant candidate. Last EGD 
___ with grade II varices in distal esophagus. Diagnostic 
para in ED negative for SBP. Therapeutic/diagnostic paras 
completed on ___ (2.5L removed), ___ (0.425L removed), ___ 
(2.2L removed) and ___ (4L removed) which were negative for 
SBP. Following paras, she was still complaining of distension 
and some nausea due to incomplete drainage because of 
loculations. Per patient, she recently stopped taking home 
lactulose, this was restarted during admission as she appeared 
mildly confused, though was AOX3 during admission. Repeat HCV VL 
was non-detectable on ___.

#Adrenal insufficiency
Diagnosed during previous admission. She was orthostatic in the 
morning of her first hospital day. She was given fluids, 
following which her vitals remained stable. She was continued on 
home hydrocortisone.

#Acute on chronic abdominal pain
Long history of abdominal pain. Intermittent in waves with only 
mild improvement status post LVP. Diagnostic paras negative for 
SBP, CT without PVT, infectious workup negative. Her home 
morphine regimen was continued, q4h with maximum 5 doses in 24 
hours.

#Normocytic anemia
Chronic anemia in setting of cirrhosis, compounded by occasional 
blood loss from rectal varices. She received 3U of pRBC during 
admission with appropriate responses, otherwise Hgb stable ___. 

#Severe Protein Calorie Malnutrition
#Deconditioning
Tolerating tube feeds via Dobhoff initially. However, on day of 
discharge, dobhoff was noted to be partly out despite being 
bridled. Patient decided she did not want the dobhoff placed 
back prior to discharge. Patient struggles to walk because of 
weakness, however on last admission she was not accepted by 
numerous inpatient rehabs.

#Orthostatic Hypotension (resolved)
SBP drop of 30 upon standing overnight on the first night of 
admission. Most likely  combination of cardiovascular 
dysfunction ___ cirrhosis vs adrenal insufficiency. She was 
given fluid and throughout remainder of admission was not 
orthostatic.

CHRONIC ISSUES
==============
# Diabetes Mellitus 
BG 100-200s on glargine, NPH, and SSI. Patient stated that she 
just recently found out about her diagnosis. However she has had 
several years of numbness and tingling in feet.

# COPD
Continued Albuterol nebs PRN.

# GERD
Continued home PPI.

# Depression: 
Continued home escitalopram.
 
# Polysubstance use disorder 
Continued MVI, folate, thiamine 

 ===========================  
 TRANSITIONAL ISSUES:
[]Hepatic Mass:
CT A/P on previous admission showed a 4 mm hyperenhancing focus 
in the right hepatic lobe is, incompletely evaluated but may 
represent a perfusional anomaly. She will require MRI outpatient 
to further characterize.
  
[]Adrenal Insufficiency:
-Will need outpatient endocrinology follow-up

 - New Meds:  None
 - Stopped/Held Meds: None  
 - Changed Meds:  None
 - Post-Discharge Follow-up Labs Needed:  None
 - Incidental Findings:  None
 - Discharge weight:  60kg
 # CODE:  DNR/DNI
 # CONTACT:  ___ (fianc) ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol 0.083% Neb Soln ___ NEB IH Q4H:PRN shortness of 
breath, wheezing 
2. Aspirin 81 mg PO DAILY 
3. Escitalopram Oxalate 20 mg PO DAILY 
4. Fluticasone Propionate NASAL 1 SPRY NU BID 
5. Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID 
6. FoLIC Acid 1 mg PO DAILY 
7. Lactulose 30 mL PO QID 
8. Morphine Sulfate (Oral Solution) 2 mg/mL 10 mg PO Q2-4H:PRN 
Pain - Moderate 
9. Multivitamins W/minerals 1 TAB PO DAILY 
10. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
11. Pregabalin 150 mg PO BID 
12. Rifaximin 550 mg PO BID 
13. Thiamine 100 mg PO DAILY 
14. Tiotropium Bromide 1 CAP IH DAILY 
15. Albuterol Inhaler 2 PUFF IH Q4H-Q6H PRN shortness of breath, 
wheezing 
16. Lidocaine 5% Patch 2 PTCH TD QAM 
17. Ondansetron ODT 4 mg PO Q8H:PRN nausea 
18. Tizanidine 2 mg PO DAILY:PRN muscle spasm 
19. Zinc Sulfate 220 mg PO DAILY 
20. Pantoprazole 40 mg PO Q12H pill esophagitis 
21. Sucralfate 1 gm PO QID 
22. Hydrocortisone 10 mg PO DAILY 
23. Hydrocortisone 5 mg PO AFTERNOON 
24. insulin glargine 100 unit/mL (3 mL) subcutaneous BREAKFAST 
25. HumuLIN N NPH Insulin KwikPen (insulin NPH isoph U-100 
human) 100 unit/mL (3 mL) SC QHS 
26. HumaLOG KwikPen Insulin (insulin lispro) 200 unit/mL (3 mL) 
subcutaneous ASDIR 

 
Discharge Medications:
1.  Albuterol 0.083% Neb Soln ___ NEB IH Q4H:PRN shortness of 
breath, wheezing  
2.  Albuterol Inhaler 2 PUFF IH Q4H-Q6H PRN shortness of breath, 
wheezing  
3.  Aspirin 81 mg PO DAILY  
4.  Escitalopram Oxalate 20 mg PO DAILY  
5.  Fluticasone Propionate NASAL 1 SPRY NU BID  
6.  Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID  
7.  FoLIC Acid 1 mg PO DAILY  
8.  HumaLOG KwikPen Insulin (insulin lispro) 200 unit/mL (3 mL) 
subcutaneous ASDIR  
9.  HumuLIN N NPH Insulin KwikPen (insulin NPH isoph U-100 
human) 100 unit/mL (3 mL) SC QHS  
10.  Hydrocortisone 10 mg PO DAILY  
11.  Hydrocortisone 5 mg PO AFTERNOON  
12.  insulin glargine 100 unit/mL (3 mL) subcutaneous BREAKFAST  

13.  Lactulose 30 mL PO QID  
14.  Lidocaine 5% Patch 2 PTCH TD QAM  
15.  Morphine Sulfate (Oral Solution) 2 mg/mL 10 mg PO Q2-4H:PRN 
Pain - Moderate  
16.  Multivitamins W/minerals 1 TAB PO DAILY  
17.  Ondansetron ODT 4 mg PO Q8H:PRN nausea  
18.  Pantoprazole 40 mg PO Q12H pill esophagitis  
19.  Polyethylene Glycol 17 g PO DAILY:PRN constipation  
20.  Pregabalin 150 mg PO BID  
21.  Rifaximin 550 mg PO BID  
22.  Sucralfate 1 gm PO QID  
23.  Thiamine 100 mg PO DAILY  
24.  Tiotropium Bromide 1 CAP IH DAILY  
25.  Tizanidine 2 mg PO DAILY:PRN muscle spasm  
26.  Zinc Sulfate 220 mg PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
==================
EtOH cirrhosis (Child's Class B) c/b ascites, esophageal 
varices,
hepatic encephalopathy
SECONDARY DIAGNOSES:
====================
Hepatitis C
Hypertension
Hyperlipidemia
COPD
Depression
Cervical spondylosis
L subclavian stenosis
Peripheral vascular disease
Severe protein-calorie malnutrition
GERD s/p lap fundoplication and hiatal hernia repair ___
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,  
 You were admitted to the hospital because you had worsening 
ascites causing abdominal distension.
 
 WHAT HAPPENED WHILE YOU WERE IN THE HOSPITAL?  
 - We completed 4 paracenteses during the admission.
 - You required blood transfusion three times.
 - We monitored your labs and vitals which remained stable
 - You improved and were ready to leave the hospital.  

 WHAT DO YOU NEED TO DO WHEN YOU LEAVE THE HOSPITAL?  
 - Take all of your medications as prescribed (listed below)  
 - Keep your follow up appointments with your doctors; 
specifically your paracentesis on ___ 
 - The hospice team will come visit you at your house.
 - Please maintain a high protein diet with low salt
 - If you experience any of the danger signs listed below please 
call your primary care doctor or come to the emergency 
department immediately.

 It was a pleasure participating in your care. We wish you the 
best!  
 - Your ___ Care Team  

 
Followup Instructions:
___